US06197912B1
In a 1 liter 3-necked flask equipped with a magnetic stirrer, heating mantle thermometers and condenser was added 664.1 g (3 moles) of 4-amino-3,3-dimethylbutyltrimethoxysilane and 69.4 g (0.75 mole) of 1-chlorobutane. With stirring, the flask contents were slowly heated to 125° C. and maintained at that temperature for a total of 13 hours. A gas chromatograph of a sample of the flask contents at that point indicated all of the chlorobutane had been consumed in the reaction with the aminofunctional silane. The flask was cooled to room temperature and 162 g of a 25% solution of sodium methoxide in methanol (0.75 mole of sodium methoxide) was added drop-wise by means of an addition funnel. After stirring for 30 minutes the flask contents were pressure filtered and distilled, yielding after removal of methanol and excess 4-amino-3,3-dimethylbutyltrimethoxysilane, 160.7 g of N-butyl-4-amino-3,3-dimethylbutyltrimethoxysilane (bp 90-94° C. at 1 mm Hg, 58% yield). The structure was confirmed by gc-mass spectroscopy and 1H and 13C nmr spectroscopy.

reactant | 4-amino-3,3-dimethylbutyltrimethoxysilane | 3 moles, 664.1 g | NCC(CC[Si](OC)(OC)OC)(C)C | C9H23NO3Si
reactant | 1-chlorobutane | 0.75 mole, 69.4 g | ClCCCC | C4H9Cl
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | CO | CH4O
solvent | methanol | 0.75 mole | CO | CH4O
product | N-butyl-4-amino-3,3-dimethylbutyltrimethoxysilane | 160.7 g, 58% yield | C(CCC)NCC(CC[Si](OC)(OC)OC)(C)C | C13H31NO3Si
